US09233946B2
5-Methoxy-3-methylbenzothiophene-2-sulfonyl chloride
A mixture of potassium 5-methoxy-3-methylbenzothiophene-2-sulfonate (100 mg, 0.34 mmol) in POCl3 (5 mL) was heated at 60° C. over night. The POCl3 was evaporated and the remaining crude product was purified on a small amount of silica using CH2Cl2 as eluent to give 80 mg of the title compound (90%).

reactant | potassium 5-methoxy-3-methylbenzothiophene-2-sulfonate | 0.34 mmol, 100 mg | COC=1C=CC2=C(C(=C(S2)S(=O)(=O)[O-])C)C1.[K+]
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-Methoxy-3-methylbenzothiophene-2-sulfonyl chloride | 80 mg, 90% | COC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C10H9ClO3S2
